US05753664
7-[4-(4-Fluorobenzoyl)benzyloxy]-3,6-dimethyl-5H-thiazolo[3,2-a]pyrimidin-5-one
To a solution of 3,6-dimethyl-2-hydroxy-5H-thiazolo[3,2-a]pyrimidin-5-one (513 mg) and potassium carbonate (741 mg) in DMF (10 ml) was added 4-(4-fluorobenzoyl)benzyl bromide (782 mg) and the mixture was stirred at 80° C. for 2 hours. This reaction mixture was concentrated and the residue was diluted with water-ethyl acetate and extracted with ethyl acetate. The extract was purified by silica gel column chromatography (hexane: ethyl acetate =2:1) and recrystallized from ethyl acetate to provide the title compound as colorless solid (76 mg).

reactant | 3,6-dimethyl-2-hydroxy-5H-thiazolo[3,2-a]pyrimidin-5-one | 513 mg | CC1=C(SC=2N1C(C(=CN2)C)=O)O | C8H8N2O2S
reactant | potassium carbonate | 741 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(4-fluorobenzoyl)benzyl bromide | 782 mg | FC1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C14H10BrFO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 7-[4-(4-Fluorobenzoyl)benzyloxy]-3,6-dimethyl-5H-thiazolo[3,2-a]pyrimidin-5-one | 76 mg | FC1=CC=C(C(=O)C2=CC=C(COC=3N=C4N(C(C3C)=O)C(=CS4)C)C=C2)C=C1 | C22H17FN2O3S
